US07282494B2
1-(5-Phenylacetylenyl-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine (Compound 2F16)
A mixture of 1-(5-bromo-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine (3.5 g, 9.8 mmol), phenylacetylene (2.0 g, 19.6 mmol), tetrakis(triphenylphosphine)palladium(0) (100 mg, 0.086 mmol), diethylamine (1.4 g, 19.6 mmol) and tetrahydrofuran (50 ml) was refluxed for 5 hours. Aqueous sodium hydroxide (75 ml, 1M) was added. The mixture was extracted twice with ethyl acetate. The mixture was purified by chromatography on silica gel using ethyl acetate:petroleum (1:1) as solvent. Yield 0.54 g, 7.3%.

reactant | 1-(5-bromo-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine | 9.8 mmol, 3.5 g | BrC=1C=C(C=NC1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H22BrN3O2
reactant | phenylacetylene | 19.6 mmol, 2.0 g | C1(=CC=CC=C1)C#C | C8H6
reactant | diethylamine | 19.6 mmol, 1.4 g | C(C)NCC | C4H11N
reactant | sodium hydroxide | 1M, 75 ml | [OH-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.086 mmol, 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(5-Phenylacetylenyl-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine | C1(=CC=CC=C1)C#CC=1C=C(C=NC1)N1CCN(CCC1)C(=O)OC(C)(C)C | C23H27N3O2
